US04495195
A reaction mixture was prepared from 13.5 g. of methyl 1-methyl-3-(3-bromophenyl)pyrazole-5-carboxylate and 6.2 g. of sulfuryl chloride in benzene solution. The reaction mixture was heated to refluxing temperature for about 36 hours, and was then cooled and poured into water. The aqueous mixture was extracted with ethyl acetate, and the ethyl acetate extract separated and dried. Removal of the ethyl acetate in vacuo yielded, as a residue, methyl 1-methyl-3-(3-bromophenyl)-4-chloropyrazole-5-carboxylate formed in the above reaction. Recrystallization of the residue from hexane yielded crystalline material melting at 91°-3° C.

reactant | methyl 1-methyl-3-(3-bromophenyl)pyrazole-5-carboxylate | CN1N=C(C=C1C(=O)OC)C1=CC(=CC=C1)Br | C12H11BrN2O2
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl 1-methyl-3-(3-bromophenyl)-4-chloropyrazole-5-carboxylate | CN1N=C(C(=C1C(=O)OC)Cl)C1=CC(=CC=C1)Br | C12H10BrClN2O2
